US04127592
2-Carbethoxy-2,5-dimethyl-3-oxo-4-hydroxy-2H-furan
In a 250 ml three-necked flask fitted with a mechanical stirrer and a gas inlet tube is placed a solution of 3.4 g of sodium ethoxide in 100 ml of ethanol. To the stirred solution is added at room temperature, under nitrogen, 9.3 g of 2-carbethoxy-5-methyl-3,4-dihydroxy-furan and 0.5 g of sodium iodide. Gaseous methyl bromide is bubbled through the vigorously stirred reaction mixture at 50°-60° C. till the pH of the reaction mixture reaches 6.5-7.0. The solvent is removed under vacuum and the residue is dissolved in ether. The sodium bromide is filtered off, the ether solution is concentrated under vacuum and the residue is distilled through a short Vigreux column; 2-carbethoxy-2,5-dimethyl-3-oxo-4-hydroxy-2H-furan is collected at 102°-105° C./0.2 mm. Yield 8.1 g (81%), recrystallized from cyclohexane, m.p. 89.8°-90.1° C.

reactant | sodium ethoxide | 3.4 g | [O-]CC.[Na+]
reactant | 2-carbethoxy-5-methyl-3,4-dihydroxy-furan | 9.3 g | C(=O)(OCC)C=1OC(=C(C1O)O)C | C8H10O5
reactant | sodium iodide | 0.5 g | [I-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Carbethoxy-2,5-dimethyl-3-oxo-4-hydroxy-2H-furan | C(=O)(OCC)C1(OC(=C(C1=O)O)C)C | C9H12O5
